US05604209
To a suspension of 5-isopropyluracil (18 g) in dichloromethane (230 ml) was added bis-trimethylsilylacetamide (60.7 ml) and the mixture stirred for 1 hr at room temperature. To the solution were added tetra-n-butylammonium iodide (0.46 g) and chloromethylethyl ether (10.7 ml) at room temperature and the mixture stirred for 1.5 hr. The resultant mixture was washed and partitioned with cooled water (50 ml) (×2). The organic layer was concentrated under reduced pressure. The residue was crystallized at room temperature from n-heptane (100 ml) to yield 1-ethoxymethyl-5-isopropyluracil (22.2 g). M.p., 78.4° C.

reactant | 5-isopropyluracil | 18 g | C(C)(C)C=1C(NC(NC1)=O)=O | C7H10N2O2
reactant | bis-trimethylsilylacetamide | 60.7 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | chloromethylethyl ether | 10.7 ml | ClCOCC | C3H7ClO
solvent | dichloromethane | 230 ml | ClCCl | CH2Cl2
catalyst | tetra-n-butylammonium iodide | 0.46 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-ethoxymethyl-5-isopropyluracil | 22.2 g | C(C)OCN1C(=O)NC(=O)C(=C1)C(C)C | C10H16N2O3
